US07888464B2
Step 1b: Preparation of (S)-2-(Adamantan-1-yloxycarbonylamino)-3,3-dimethyl-butyric acid
To a solution of (S)-2-(Adamantan-1-yloxycarbonylamino)-3,3-dimethyl-butyric acid methyl ester (358 mg, 1.107 mmol) in THF (4 mL) and MeOH (4 mL) was added a pre-made solution of lithium hydroxide monohydrate (93 mg, 2.214 mmol) in water (4.00 mL). The cloudy white solution was stirred at rt for 5 hrs. The volatiles were removed, and the reaction mixture was diluted with dilute citric acid solution and extracted with EtOAc (3×10 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated to obtain a white solid (291.4 mg, 85%) as product. The crude material was used without further purification.

reactant | (S)-2-(Adamantan-1-yloxycarbonylamino)-3,3-dimethyl-butyric acid methyl ester | 1.107 mmol, 358 mg | COC([C@H](C(C)(C)C)NC(=O)OC12CC3CC(CC(C1)C3)C2)=O | C18H29NO4
reactant | lithium hydroxide monohydrate | 2.214 mmol, 93 mg | O.[OH-].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
solvent | water | 4.00 mL | O | H2O
product | (S)-2-(Adamantan-1-yloxycarbonylamino)-3,3-dimethyl-butyric acid | 291.4 mg, 85% | C12(CC3CC(CC(C1)C3)C2)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C17H27NO4
